US04732982
6-Ethyl-5-[1-(Methoxyimino)propyl]-2-(1H)-pyridinone
A mixture of 5-ethyl-5-(1-oxopropyl)-2-(1H)-pyridinone (1.0 g, 0.0056 mol), methoxyamine hydrochloride (0.53 g, 0.0063 mol) and pyridine (3.0 ml) were heated and stirred at reflux for 48 hours in EtOH (30 ml). The reaction mixture was allowed to cool to room temperature and concentrated to a viscous liquid on the rotary evaporator at 60° C. The residue solidified on cooling. The solid was triturated with H2O (50 ml) and then collected by filtration to give 0.91 g, m.pt. 120°-125° C. One recrystallization (EtOH-H2O) gave 0.55 g (47%), m.pt. 129°-131° C.

reactant | 5-ethyl-5-(1-oxopropyl)-2-(1H)-pyridinone | 0.0056 mol, 1.0 g | C(C)C1(C=CC(NC1)=O)C(CC)=O | C10H15NO2
reactant | methoxyamine hydrochloride | 0.0063 mol, 0.53 g | Cl.CON
reactant | pyridine | 3.0 ml | N1=CC=CC=C1 | C5H5N
solvent | EtOH | 30 ml | CCO | C2H6O
product | 6-Ethyl-5-[1-(Methoxyimino)propyl]-2-(1H)-pyridinone | C(C)C1=C(C=CC(N1)=O)C(CC)=NOC | C11H16N2O2
